US09163011B2
b) 5-Acetyl-3-chloro-pyridine-2-carboxylic acid methyl ester
To a solution of 3-chloro-5-(1-ethoxy-vinyl)-pyridine-2-carboxylic acid methyl ester (359 mg, 1.485 mmol) in THF (3.6 ml) was added para-toluenesulfonic acid monohydrate (565 mg, 2.97 mmol) and the mixture was stirred for 1 h. The reaction mixture was diluted with TBME and sat. aq. NaHCO3, the layers were separated and the aq. Phase was extracted with TBME. The combined organic layers were washed with sat. aq. NaHCO3 and sat. aq. NaCl, dried with MgSO4, filtered and concentrated under reduced pressure. The residue was purified by chromatography on silica gel (cyclohexane/EtOAc 9:1 to 6/1) to provide the title compound as yellow solid.

reactant | 3-chloro-5-(1-ethoxy-vinyl)-pyridine-2-carboxylic acid methyl ester | 1.485 mmol, 359 mg | COC(=O)C1=NC=C(C=C1Cl)C(=C)OCC | C11H12ClNO3
reactant | para-toluenesulfonic acid monohydrate | 2.97 mmol, 565 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | THF | 3.6 ml | C1CCOC1 | C4H8O
solvent | TBME | CC(C)(C)OC | C5H12O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 5-Acetyl-3-chloro-pyridine-2-carboxylic acid methyl ester | COC(=O)C1=NC=C(C=C1Cl)C(C)=O | C9H8ClNO3
